US06924284B2
Synthesis of 3-[3-(4-methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-N-{2-[(4-oxo-3,4-dihydro-phthalazin-1-ylmethyl)-amino]-ethyl}-propionamide
To a solution of 4-chloromethyl-2H-phthalazin-1-one (9.7 mg, 0.05 mmol) in DMF (200 μL), N-(2-amino-ethyl)-3-[3-(4-methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-propionamide (14.4 mg, 0.05 mmol) and DIPEA (9 μL, 0.05 mmol) were added. The mixture was stirred overnight at rt and directly applied to preparative HPLC. The purity was determined by RPLC/MS.

reactant | 4-chloromethyl-2H-phthalazin-1-one | 0.05 mmol, 9.7 mg | ClCC1=NNC(C2=CC=CC=C12)=O | C9H7ClN2O
reactant | N-(2-amino-ethyl)-3-[3-(4-methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-propionamide | 0.05 mmol, 14.4 mg | NCCNC(CCC1=NC(=NO1)C1=CC=C(C=C1)OC)=O | C14H18N4O3
reactant | DIPEA | 0.05 mmol, 9 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
product | 3-[3-(4-methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-N-{2-[(4-oxo-3,4-dihydro-phthalazin-1-ylmethyl)-amino]-ethyl}-propionamide | COC1=CC=C(C=C1)C1=NOC(=N1)CCC(=O)NCCNCC1=NNC(C2=CC=CC=C12)=O | C23H24N6O4
